US04668589
Tris(4-nitrophenoxy)-trisphenoxycyclotriphosphazene
This material is obtained as a white solid by the treatment of sodium and phenol with hexachlorocyclotriphosphazene at -78° C. to produce the trichlorotriphenoxycyclotriphosphazene, according to D. Dell et al., J. Chem. Soc., 4072 (1965), which is incorporated herein by reference. This material is further reacted with sodium 4-nitrophenoxide in refluxing tetrahydrofuran to give the title compound in good yield.

reactant | trichlorotriphenoxycyclotriphosphazene | ClP1(=NP(=NP(=N1)(OC1=CC=CC=C1)Cl)(OC1=CC=CC=C1)Cl)OC1=CC=CC=C1 | C18H15Cl3N3O3P3
reactant | sodium 4-nitrophenoxide | [N+](=O)([O-])C1=CC=C([O-])C=C1.[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | Tris(4-nitrophenoxy)-trisphenoxycyclotriphosphazene | [N+](=O)([O-])C1=CC=C(OP2(=NP(=NP(=N2)(OC2=CC=CC=C2)OC2=CC=C(C=C2)[N+](=O)[O-])(OC2=CC=CC=C2)OC2=CC=C(C=C2)[N+](=O)[O-])OC2=CC=CC=C2)C=C1 | C36H27N6O12P3
